US08912219B2
Step 3: Imidazole-1-sulfonic acid (4-fluoro-benzyl)-isobutyl-amide
A solution of (4-fluoro-benzyl)-isobutyl-amine (500 mg, 2.76 mmol) in MeCN (20 mL) was treated with 3-(imidazole-1-sulfonyl)-1-methyl-3H-imidazol-1-ium triflate (1.49 g, 4.14 mmol) and heated at reflux for 18 hours. The cooled reaction mixture was concentrated under vacuum and purified by silica gel chromatography (0-50% EtOAc in DCM) to afford the title compound (275 mg, 32%) as a pale yellow oil. 1H NMR (300 MHz, CDCl3) δ 7.95 (s, 1H), 7.17 (m, 4H), 7.02 (m, 2H), 4.40 (s, 2H), 3.01 (d, J=7.6 Hz, 2H), 1.77 (m, 1H), 0.80 (d, J=6.6 Hz, 6 H). LCMS (m/z, Method A) ES+ 312.0 [M+1]+.

reactant | (4-fluoro-benzyl)-isobutyl-amine | 2.76 mmol, 500 mg | FC1=CC=C(CNCC(C)C)C=C1 | C11H16FN
reactant | 3-(imidazole-1-sulfonyl)-1-methyl-3H-imidazol-1-ium triflate | 4.14 mmol, 1.49 g | [O-]S(=O)(=O)C(F)(F)F.N1(C=NC=C1)S(=O)(=O)N1C=[N+](C=C1)C
solvent | MeCN | 20 mL | CC#N | C2H3N
product | Imidazole-1-sulfonic acid (4-fluoro-benzyl)-isobutyl-amide | 275 mg, 32% | FC1=CC=C(CN(S(=O)(=O)N2C=NC=C2)CC(C)C)C=C1 | C14H18FN3O2S
